US07951874B2
a) Preparation of 9,9-diheptylfluorene
0.2 mol of fluorene is dissolved in 300 ml of DMSO at 80° C. 0.01 mol of phase transfer catalyst (aliquot) is added to the solution which is stirred for a further 5 minutes. For the alkylation, 0.5 mol of 50% sodium hydroxide solution and 0.5 mol of heptyl bromide are required. The addition is effected in three stages, and commences with the addition of one third of the amount of sodium hydroxide solution used. The solution changes color to deep red and slowly becomes yellow by addition of heptyl bromide. When the solution has become yellow, the second third of sodium hydroxide solution is added, etc. The end of the reaction is checked by means of TLC on RP18 in acetonitrile.

reactant | fluorene | 0.2 mol | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | sodium hydroxide | 0.5 mol | [OH-].[Na+]
reactant | heptyl bromide | 0.5 mol | C(CCCCCC)Br | C7H15Br
solvent | DMSO | 300 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | C(C)#N | C2H3N
product | 9,9-diheptylfluorene | C(CCCCCC)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCCCC | C27H38
